US07491718B2
methyl 2-amino-3-bromo-5,6,7,8-tetrahydro-1-naphthalenecarboxylate
Methyl 2-amino-1-naphthoate (0.5 g, 2.4 mmol) in chloroform (5 mL) and DMF (1 mL) was treated with bromine (0.125 mL, 2.4 mmol) for 30 minutes, concentrated, and dissolved in ethyl acetate. The organic layer was washed with NaHCO3 (3×), brine (3×) and water (3×), dried (Na2SO4), filtered, and concentrated to provide the desired product (0.69 g). MS (DCI) m/e 284, 286 (M+H)+.

reactant | Methyl 2-amino-1-naphthoate | 2.4 mmol, 0.5 g | NC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C12H11NO2
reactant | bromine | 2.4 mmol, 0.125 mL | BrBr | Br2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | methyl 2-amino-3-bromo-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 0.69 g | NC1=C(C=2CCCCC2C=C1Br)C(=O)OC | C12H14BrNO2
